US20010047105A1
Step C: 5-[4-(3-Fluoro-phenyl)-3-hydroxy-butyl]-1-[6-(2H-tetrazol-5-yl)-hexyl]-pyrrolidin-2-one.
Following the procedure described for Example 6, Step C, 7-{2-[4-(3-fluoro-phenyl)-3-hydroxy-butyl]-5-oxo-pyrrolidin-1-yl}-heptanenitrile (141.3 mg, 0.392 mmol) was reacted with azidotrimethylsilane (0.210 mL, 1.57 mmol) and dibutyltin oxide (29 mg, 0.116 mmol) in toluene (8 mL) heated under reflux for 72 h. Purification by medium pressure chromatography (CH2Cl2 to 2% MeOH in CH2Cl2 to 4% MeOH in CH2Cl2 to 6% MeOH in CH2Cl2) provided the title compound of Example 5C. (101.5 mg). 1H NMR (CDCl3) δ7.26 (m, 1H), 6.94 (m, 3H), 3.87 (m, 1H), 3.70 (m, 1H), 3.52 (m, 1H), 2.98 (m, 3H), 2.78 (m, 2H), 2.48 (m, 2H), 2.20 (m, 1H), 1.89-1.24 (m, 1 4H); MS 404.2 (M+1), 401.9 (M−1).

reactant | 7-{2-[4-(3-fluoro-phenyl)-3-hydroxy-butyl]-5-oxo-pyrrolidin-1-yl}-heptanenitrile | 0.392 mmol, 141.3 mg | FC=1C=C(C=CC1)CC(CCC1N(C(CC1)=O)CCCCCCC#N)O | C21H29FN2O2
reactant | azidotrimethylsilane | 1.57 mmol, 0.210 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | dibutyltin oxide | 0.116 mmol, 29 mg | C(CCC)[Sn](CCCC)=O
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 5-[4-(3-Fluoro-phenyl)-3-hydroxy-butyl]-1-[6-(2H-tetrazol-5-yl)-hexyl]-pyrrolidin-2-one | FC=1C=C(C=CC1)CC(CCC1CCC(N1CCCCCCC=1N=NNN1)=O)O | C21H30FN5O2
